US08859566B2
A mixture of 1-Propyl-8-(1H-pyrazol-4-yl)-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.111 g, 0.25 mmol), potassium carbonate (0.052 g, 0.38 mmol), 1-(3-bromo-prop-1-ynyl)-4-fluoro-benzene (0.69 g, 0.33 mmol) was taken in acetone (10 ml). The reaction mixture was heated at 80° C. for 2 hours. The mixture was cooled to room temperature and filtered through sintered funnel, washed with acetone. Solvent was evaporated and the residue was purified by preparative TLC to obtain pure 8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.025 g, 22%) as colourless oil.

reactant | 1-Propyl-8-(1H-pyrazol-4-yl)-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.25 mmol, 0.111 g | C(CC)N1C(=NC=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NNC1)N1CCCC1 | C21H33N7O2Si
reactant | potassium carbonate | 0.38 mmol, 0.052 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-bromo-prop-1-ynyl)-4-fluoro-benzene | 0.33 mmol, 0.69 g | BrCC#CC1=CC=C(C=C1)F | C9H6BrF
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.025 g, 22% | FC1=CC=C(C=C1)C#CCN1N=CC(=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)N1CCCC1 | C30H38FN7O2Si
